* SPICE NETLIST
***************************************

.SUBCKT HalfAdder B S C A GROUND VDD
** N=10 EP=6 IP=0 FDC=12
M0 1 A B GROUND N L=4e-07 W=2.4e-06 AD=3.84e-12 AS=3.36e-12 $X=3000 $Y=-23000 $D=1
M1 A B 1 GROUND N L=4e-07 W=2.4e-06 AD=3.36e-12 AS=3.84e-12 $X=13000 $Y=-23000 $D=1
M2 GROUND 1 S GROUND N L=4e-07 W=1.2e-06 AD=2.16e-12 AS=1.68e-12 $X=37000 $Y=-17000 $D=1
M3 9 A 7 GROUND N L=4e-07 W=2.4e-06 AD=1.44e-12 AS=2.88e-12 $X=84000 $Y=-22000 $D=1
M4 GROUND B 9 GROUND N L=4e-07 W=2.4e-06 AD=3.12e-12 AS=1.44e-12 $X=89000 $Y=-22000 $D=1
M5 C 7 GROUND GROUND N L=4e-07 W=1.2e-06 AD=1.44e-12 AS=3.12e-12 $X=98000 $Y=-16000 $D=1
M6 10 A VDD VDD P L=4e-07 W=4.8e-06 AD=2.88e-12 AS=8.64e-12 $X=3000 $Y=2000 $D=0
M7 1 B 10 VDD P L=4e-07 W=4.8e-06 AD=6.72e-12 AS=2.88e-12 $X=8000 $Y=2000 $D=0
M8 VDD 1 S VDD P L=4e-07 W=3.6e-06 AD=6.48e-12 AS=5.04e-12 $X=37000 $Y=2000 $D=0
M9 7 A VDD VDD P L=4e-07 W=2.4e-06 AD=2.88e-12 AS=3.84e-12 $X=84000 $Y=2000 $D=0
M10 VDD B 7 VDD P L=4e-07 W=2.4e-06 AD=2.88e-12 AS=2.88e-12 $X=92000 $Y=2000 $D=0
M11 C 7 VDD VDD P L=4e-07 W=2.4e-06 AD=2.88e-12 AS=2.88e-12 $X=100000 $Y=2000 $D=0
.ENDS
***************************************
