* LVS netlist generated with ICnet by 'ppaulson' on Tue May  2 2017 at 16:00:44

*
* Globals.
*
.global VDD ground

*
* Component pathname : $Lab3/default.group/logic.views/NAND
*
.subckt NAND  OUT A B

        M1 N$213 A ground ground N L=0.4u W=3.2u M=1
        M3 OUT A VDD VDD P L=0.4u W=3.2u M=1
        M2 OUT B N$213 ground N L=0.4u W=3.2u M=1
        M4 OUT B VDD VDD P L=0.4u W=3.2u M=1
.ends NAND

