* SPICE NETLIST
***************************************

.SUBCKT NAND A GND OUT VDD B
** N=6 EP=5 IP=0 FDC=4
M0 6 A GND GND N L=4e-07 W=3.2e-06 AD=6.4e-12 AS=6.4e-12 $X=-14000 $Y=-6000 $D=1
M1 OUT B 6 GND N L=4e-07 W=3.2e-06 AD=5.12e-12 AS=6.4e-12 $X=-2000 $Y=-6000 $D=1
M2 OUT A VDD VDD P L=4e-07 W=3.2e-06 AD=6.4e-12 AS=6.4e-12 $X=-14000 $Y=23000 $D=0
M3 VDD B OUT VDD P L=4e-07 W=3.2e-06 AD=5.12e-12 AS=6.4e-12 $X=-2000 $Y=23000 $D=0
.ENDS
***************************************
